US07906645B2
To a stirred solution of tert-butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]pyrrolidine-1-carboxylate (3.485 g, 7.39 mmol) in DCM (30 ml) was added TFA (30 ml). The reaction was allowed to stir at ambient temperature for 1 hour. The solvents were then removed in vacuo, residue partitioned between DCM and 2M NaOH, extracted twice and the combined organics dried (Na2SO4), filtered and evaporated to dryness to give the product, N-(3,4-dichlorophenyl)-4-(pyrrolidin-3-ylcarbonyl)piperazine-1-carboxamide, as a pale yellow foam (20.745 g, 7.39 mmol, 100%).

reactant | tert-butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]pyrrolidine-1-carboxylate | 7.39 mmol, 3.485 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CN(CC1)C(=O)OC(C)(C)C | C21H28Cl2N4O4
reactant | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(3,4-dichlorophenyl)-4-(pyrrolidin-3-ylcarbonyl)piperazine-1-carboxamide | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CNCC1 | C16H20Cl2N4O2
